* C:\Users\73JN\OneDrive\Documents\ELN\Wild Penguins\eln1-project-2020-wild-penguins\Simul\Simu_analog.asc
XU1 N007 N001 Vdd Vee N001 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N006 N009 Vdd Vee N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 0 Vee 1.5
V2 Vdd 0 {Vbatt-1.5}
R1 N007 0 16K
R2 N005 N007 100k
C1 N004 N005 22n
V3 N004 Vee PULSE({Vbatt} 0 0 0.1u 0.1u {1/(2*freq)} {1/freq})
R3 N006 N001 10k
R4 0 N006 {R}
C2 N006 0 {C}
R5 0 N009 10k
R6 N008 N009 22k
XU3 N001 N003 Vdd Vee N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R7 0 N003 10k
R8 N002 N003 22k
.tran 20m
.param freq=5k
.param Vbatt = 2.8
.param R table(index,1,516k,2,11.8k,3,6.35k,4,3.25k,5,500)
.param C table(index,1,65.7pF,2,545pF,3,591pF,4,1.66nF,5,4.9nF)
.step param index list 1 2 3 4 5
.lib UniversalOpamps2.sub
.backanno
.end
